.SUBCKT MAX414 1 2  99 50 97 
****************INPUT STAGE********************** 
* 
IOS 2 1 40N 
I1 4 50 2MA 
GIN 2 1 2 1 50E-9 
CIN 1 2 4PF 
G16 0 1 106 0 .87E-3 
G19 0 2 109 0 .87E-3 
****VCCS NOISE INPUT CURRENTS**** 
G1 5 99 5 99 38.5E-3 
G2 6 99 6 99 38.5E-3 
EOS 1 3 POLY(1) 98 30 .15M 1 
*               ^       OFFSET VOLTAGE 
EN 3 9 POLY(1) 103 0 0 1 
Q1 5 2 4 QX 
Q2 6 9 4 QX 
Dsub 50 99 DX 
*Fp2=65MHz, Second Pole 
C4 5 6 23.5PF 
* 
*****************NOISE GENERATORS************** 
* 
***VOLTAGE NOISE GENERATOR*** 
VN1 101 0 2V 
VN2 0 102 2V 
DN1 101 103 D1 
DN2 103 102 D1 
.MODEL D1 D(KF=4E-15 RS=300) 
****CURRENT NOISE GENERATOR + IN**** 
VN3 104 0 2V 
VN4 0 105 2V 
DN3 104 106 D2 
DN4 106 105 D2 
****CURRENT NOISE GENERATOR - IN**** 
VN5 107 0 2V 
VN6 0 108 2V 
DN5 107 109 D2 
DN6 109 108 D2 
.MODEL D2 D(KF=3.1E-16 RS=300) 
* 
***************SECOND STAGE****************** 
IS 99 50 .5m 
*         SETS IS ^ 
****OUTPUT VOLTAGE LIMITING**** 
V2 99 11 1.7 
D1 12 11 DX 
D2 10 12 DX 
V3 10 50 1.7 
****LEVEL TRANSLATION **** 
EH 99 98 99 50 0.5 
****GAIN, 1ST POLE**** 
G3 98 12 5 6 29.3E-3 
*1ST POLE 21HZ,AVOL 1E6 
G4 12 98 12 98 29.3E-9 
C3 98 12 195E-12 
* 
**************FREQUENCY SHAPING STAGES******** 
* 
****POLE STAGE**** 
G5 98 15 12 98 1E-3 
G6 98 15 98 15 1E-3 
D13 50 15 DX 
*R5 98 15 1E3 
C5 98 15 2.45E-12 
*                  ^ POLE AT 65MEGHZ 
****DELAY STAGE**** 
ED 16 98 15 98 1 
RD1 16 17 20 
RD2 17 18 20 
RD3 18 19 20 
CD1 17 98 18PF 
CD2 18 98 18PF 
CD3 19 98 18PF 
****COMMON-MODE STAGE**** 
G11 98 30 4 98 316E-12 
G13 30 98 30 98 1E-3 
D11 50 30 DX 
* 
*******************OUTPUT STAGE**************** 
F6 99 50 VA7 1 
F5 99 38 VA8 1 
D9 40 38 DX 
D10 38 99 DX 
VA7 99 40 0 
**************** 
G12 98 32 19 98 1E-3 
R15 98 32 1E3 
D3 32 36 DX 
D4 37 32 DX 
V5 35 37 0.3V 
V4 36 35 0.3V 
R16 34 35 30 
E1 99 33 99 32 1 
VA8 33 34 0V 
L 35 96 50P 
R17 96 97 40 
* 
***** MODELS USED ****** 
.MODEL DX D(IS=1E-15) 
.MODEL QX NPN(BF=6.25E4) 
.ENDS MAX414
